2168-04-01 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2168-3-31**] 10:30 AM
   - continue to be tremulous and slightly tachycardic overnight; required
   total of 90 mg of diazepam
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2168-4-1**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-1**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 96 (89 - 118) bpm
   BP: 129/90(99) {127/77(91) - 170/145(150)} mmHg
   RR: 26 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,747 mL
                                                                  1,132 mL
   PO:
                                                                    760 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,987 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                  1,685 mL
   Urine:
                                                                  1,925 mL
                                                                  1,685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,822 mL
                                                                   -553 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.38/38/105/25/-1
   Physical Examination
   GENERAL:  NAD, AOX3
   HEENT:  MM dry, JVP 8cm, EOMI, sclera anicteric, conjunctiva pink
   CARDIAC:  tachycardic but regular, no m/r/g
   LUNG:  CTAB
   ABDOMEN:  soft, mildly distended, tender to RUQ and epigastrium, no
   rebound, BS+, +shifting dullness and fluid wave, liver edge felt 2cm
   below R costal margin and is tender, no splenomegaly.  Minimal yellow
   stool in rectal vault, guaic negative, no rectal masses.
   EXT:  WWP, DP and PT 2+ bilaterally, no edema
   NEURO:  AOx3, resting tremor, no nystagmus
   Labs / Radiology
   59 K/uL
   12.2 g/dL
   133 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   5 mg/dL
   95 mEq/L
   131 mEq/L
   36.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2168-3-31**]  07:50 AM
                             [**2168-3-31**]  07:54 AM
                             [**2168-3-31**]  09:45 AM
                             [**2168-3-31**]  09:56 AM
                             [**2168-3-31**]  02:45 PM
                             [**2168-3-31**]  06:59 PM
                             [**2168-4-1**]  02:33 AM
   WBC
   5.0
   5.7
   6.2
   Hct
   36.4
   31.8
   36.7
   Plt
   59
   49
   59
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   23
   Glucose
   83
   82
   87
   91
   133
   Other labs: PT / PTT / INR:11.4/25.2/0.9, ALT / AST:133/240, Alk Phos /
   T Bili:100/0.5, Amylase / Lipase:/41, Fibrinogen:201 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:4.0 g/dL, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.5 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 SUICIDALITY / SUICIDE ATTEMPT
   48 yoM w/ a h/o ETOH abuse and depression / anxiety presents with ETOH
   intoxication and suicidal ideation.
   # Suicidal Ideation: The patient has a longstanding history of
   depression, no attempts but thoughts of suicidal ideation.
   -1:1 sitter
   -psychiatry has been consulted
   -continue home celexa, f/u psych recs.
   # ETOH withdrawal: currently showing signs of ETOH withdrawal,
   currently with tremor and tachycardia, no evidence of DTs.
   -treat with IV valium until withdrawal improves then using standing
   valium 10mg PO q4hours and 5-10mg valium Q2 hours prn CIWA > 10
   # AG acidosis:
   -send lactate and obtain ABG, gap has improved from 32 to 21
   -send u/a to evaluate for ketones
   -appears dehydrated on exam and by history, give 1 additional liter of
   NS bolus then maintenance fluids NS at 100cc/hr and bolus prn
   -place foley, patient not voiding currently but refusing foley, will
   wait 1 hour and re-discuss
   # Abdominal Pain: given history of ETOH use, could be ETOH hepatitis
   (especially given liver tenderness), no jaundice on exam.  In addition
   could be pancreatitis.  Also, given a history of hematemesis, melena,
   and BRPRB could be gastric malignancy, vs. ulcer, vs.
   gastritis/duodenitis
   -send LFTs and lipase
   -management of GI bleed as below
   # GI Bleed: subjective complaints of GI bleed.  The patient has been
   adverse to EGD in the past.  Possibilities include ulcer, malignancy,
   etc as above.
   -hct seems hemoconcentrated, IVF and repeat hct stat and then 7 p.m.
   -maintain 2 PIV (currently w/ 18g and 20g)
   -type and screen
   -GI consult after withdrawal issues are settled unless GI bleed recurs
   -[**Hospital1 **] PPI
   -guaiac stools
   -NPO
   # Thrombocytopenia: normal WBC and HCT.  Baseline plts relatively
   normal. Could be from liver disease but no history of this.  Has had an
   elevated bili of 1.6 in the past but has never had coags sent.  Albumin
   4.5 in [**Month (only) **].  Other possiblities are ITP, myelosuppresion from
   ETOH (less likely given no anemia or leukopenia), DIC.
   -obtain smear
   -repeat CBC stat
   -transfuse for plts < 50 given bleeding
   -send coags
   -obtain ultrasound of liver given ascites on exam and thrombocytopenia
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, pneumoboots given GI bleed will hold off on sc heparin,
   bowel regimen
   # ACCESS: PIV x 2
   # CODE:  FULL CODE
   # CONTACT:
   # ICU CONSENT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-3-31**] 08:28 AM
   20 Gauge - [**2168-3-31**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-04-01 10:26:00 Physician Attending Progress Note
Chief Complaint: ETOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo man with ETOH withdrawl., ETOH ketoacidosis
   24 Hour Events:
 ULTRASOUND - At [**2168-3-31**] 10:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2168-4-1**] 07:42 AM
   Other medications:
   protonix
   celexa
   levoxyl
   thiamine
   folate
   erythro ey drops
   total of 100mg PO and 30mg IV valium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-1**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 100 (89 - 105) bpm
   BP: 136/94(105) {127/77(91) - 170/145(150)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,747 mL
                                                                  1,385 mL
   PO:
                                                                    760 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,987 mL
                                                                  1,025 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                  1,925 mL
   Urine:
                                                                  1,925 mL
                                                                  1,925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,822 mL
                                                                   -540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, still tremulous
   Labs / Radiology
   12.2 g/dL
   59 K/uL
   133 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   5 mg/dL
   95 mEq/L
   131 mEq/L
   36.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2168-3-31**]  07:50 AM
                             [**2168-3-31**]  07:54 AM
                             [**2168-3-31**]  09:45 AM
                             [**2168-3-31**]  09:56 AM
                             [**2168-3-31**]  02:45 PM
                             [**2168-3-31**]  06:59 PM
                             [**2168-4-1**]  02:33 AM
   WBC
   5.0
   5.7
   6.2
   Hct
   36.4
   31.8
   36.7
   Plt
   59
   49
   59
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   23
   Glucose
   83
   82
   87
   91
   133
   Other labs: PT / PTT / INR:11.4/25.2/0.9, ALT / AST:133/240, Alk Phos /
   T Bili:100/0.5, Amylase / Lipase:/41, Fibrinogen:201 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:4.0 g/dL, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.5 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):
   Still with evidence of tremulousness and withdrawl.  Continue
   CIWA q2h.
 SUICIDALITY / SUICIDE ATTEMPT: no longer suicidal
   thrombocytopenia:  stable, likely due to ETOH.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-3-31**] 08:28 AM
   20 Gauge - [**2168-3-31**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-04-02 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Patient continues to be treated for ETOH w/d given tremor and
   tachycardia
   -per pscyh if patient is fully treated for withdrawal may not qualify
   for dual diagnosis inpt program as will not need detox
   -no inpt programs available currently
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2168-4-1**] 05:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-2**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96.1
   HR: 84 (84 - 108) bpm
   BP: 125/88(97) {116/69(84) - 184/106(127)} mmHg
   RR: 25 (19 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,190 mL
                  PO:
                                                                  1,090 mL
                  TF:
   IVF:
                                                                  2,100 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                  1,370 mL
   Urine:
                                                                  2,645 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    545 mL
                                                                 -1,370 mL
   Respiratory support
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   12.4 g/dL
   82 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   4 mg/dL
   101 mEq/L
   135 mEq/L
   37.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2168-3-31**]  07:50 AM
                             [**2168-3-31**]  07:54 AM
                             [**2168-3-31**]  09:45 AM
                             [**2168-3-31**]  09:56 AM
                             [**2168-3-31**]  02:45 PM
                             [**2168-3-31**]  06:59 PM
                             [**2168-4-1**]  02:33 AM
                             [**2168-4-2**]  03:40 AM
   WBC
   5.0
   5.7
   6.2
   4.2
   Hct
   36.4
   31.8
   36.7
   37.5
   Plt
   59
   49
   59
   47
   Cr
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   23
   Glucose
   83
   82
   87
   91
   133
   82
   Other labs: PT / PTT / INR:11.4/25.2/0.9, ALT / AST:133/240, Alk Phos /
   T Bili:100/0.5, Amylase / Lipase:/41, Fibrinogen:201 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:4.0 g/dL, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 SUICIDALITY / SUICIDE ATTEMPT
   48 yoM w/ a h/o ETOH abuse and depression / anxiety presents with ETOH
   intoxication and suicidal ideation.
   # Suicidal Ideation: The patient has a longstanding history of
   depression, no attempts but thoughts of suicidal ideation.
   -1:1 sitter
   -psychiatry has been consulted
   -continue home celexa, f/u psych recs.
   # ETOH withdrawal: currently showing signs of ETOH withdrawal,
   currently with tremor and tachycardia, no evidence of DTs.
   -treat with IV valium until withdrawal improves then using standing
   valium 10mg PO q4hours and 5-10mg valium Q2 hours prn CIWA > 10
   # AG acidosis:
   -send lactate and obtain ABG, gap has improved from 32 to 21
   -send u/a to evaluate for ketones
   -appears dehydrated on exam and by history, give 1 additional liter of
   NS bolus then maintenance fluids NS at 100cc/hr and bolus prn
   -place foley, patient not voiding currently but refusing foley, will
   wait 1 hour and re-discuss
   # Abdominal Pain: given history of ETOH use, could be ETOH hepatitis
   (especially given liver tenderness), no jaundice on exam.  In addition
   could be pancreatitis.  Also, given a history of hematemesis, melena,
   and BRPRB could be gastric malignancy, vs. ulcer, vs.
   gastritis/duodenitis
   -send LFTs and lipase
   -management of GI bleed as below
   # GI Bleed: subjective complaints of GI bleed.  The patient has been
   adverse to EGD in the past.  Possibilities include ulcer, malignancy,
   etc as above.
   -hct seems hemoconcentrated, IVF and repeat hct stat and then 7 p.m.
   -maintain 2 PIV (currently w/ 18g and 20g)
   -type and screen
   -GI consult after withdrawal issues are settled unless GI bleed recurs
   -[**Hospital1 **] PPI
   -guaiac stools
   -NPO
   # Thrombocytopenia: normal WBC and HCT.  Baseline plts relatively
   normal. Could be from liver disease but no history of this.  Has had an
   elevated bili of 1.6 in the past but has never had coags sent.  Albumin
   4.5 in [**Month (only) **].  Other possiblities are ITP, myelosuppresion from
   ETOH (less likely given no anemia or leukopenia), DIC.
   -obtain smear
   -repeat CBC stat
   -transfuse for plts < 50 given bleeding
   -send coags
   -obtain ultrasound of liver given ascites on exam and thrombocytopenia
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, pneumoboots given GI bleed will hold off on sc heparin,
   bowel regimen
   # ACCESS: PIV x 2
   # CODE:  FULL CODE
   # CONTACT:
   # ICU CONSENT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-3-31**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: